US07691863B2
b) 6-Isopropoxy-5-piperidin-1-yl-pyrazine-2-carboxylic acid
A mixture of 0.212 g (0.707 mmol) 6-bromo-5-piperidin-1-yl-pyrazine-2-carboxylic acid methyl ester, 0.006 g (0.778 mmol) isopropanol and 0.034 g (0.778 mmol) NaH (55% dispersion in oil) in 1.7 mL dioxane was heated to 60° C. for 16 h. Water and 5N KOH was added and the mixture was heated to 50° C. for 4 h. Formic acid and DMF was added and the mixture was subjected to purification by preparative HPLC on reversed phase eluting with a gradient formed from acetonitrile, water and formic acid. The product fractions were combined and evaporated to yield 0.04 g (21%) of the title compound. m/z (ES+): 266.4 (M+H).

reactant | 6-bromo-5-piperidin-1-yl-pyrazine-2-carboxylic acid methyl ester | 0.707 mmol, 0.212 g | COC(=O)C1=NC(=C(N=C1)N1CCCCC1)Br | C11H14BrN3O2
reactant | isopropanol | 0.778 mmol, 0.006 g | C(C)(C)O | C3H8O
reactant | NaH | 0.778 mmol, 0.034 g | [H-].[Na+]
reactant | KOH | 5N | [OH-].[K+]
solvent | dioxane | 1.7 mL | O1CCOCC1 | C4H8O2
solvent | DMF | CN(C)C=O | C3H7NO
solvent | Formic acid | C(=O)O | CH2O2
solvent | Water | O | H2O
product | 6-Isopropoxy-5-piperidin-1-yl-pyrazine-2-carboxylic acid | 0.04 g, 21% | C(C)(C)OC1=C(N=CC(=N1)C(=O)O)N1CCCCC1 | C13H19N3O3
